US07666879B2
4-Bromo-2-fluoro-phenylacetic acid, tert-butyl ester
Combine 4-bromo-2-fluoro-phenyl acetic acid (15 g, 0.064 mol), dichloromethane (30 mL) and concentrated sulfuric acid (1.1 mL) in a 2 L stainless steel Parr® vessel. Cool the vessel and contents in a dry ice-acetone bath. Freshly distill isobutene (60 mL) with dry ice-acetone condenser and add the isobutene to the cooled Parr® vessel. Seal and pressurize the vessel with nitrogen (20 psig), agitate while allowing the reaction to warm to room temperature and continue agitation at room temperature for 18 hours. Cool the vessel to 10-15° C. with dry ice, vent, and carefully add 150 mL of ice-cold saturated sodium carbonate solution and mix. Decant vessel contents, rinse vessel with dichloromethane (100 mL), agitate mixture and separate the phases. Extract aqueous phase twice with 100 mL portions of dichloromethane, combine organic layers and wash with aqueous saturated sodium chloride, dry over MgSO4 and concentrate to produce 18.61 g (90%) of the title compound as a light orange oil. MS (ES) m/z 288/290, (M+1).

reactant | 4-bromo-2-fluoro-phenyl acetic acid | 0.064 mol, 15 g | BrC1=CC(=C(C=C1)CC(=O)O)F | C8H6BrFO2
reactant | sulfuric acid | 1.1 mL | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | 60 mL | C=C(C)C | C4H8
reactant | dry ice | C(=O)=O | CO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-Bromo-2-fluoro-phenylacetic acid, tert-butyl ester | 18.61 g, 90% | BrC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)F | C12H14BrFO2
